US06838463B2
In 10 ml of N,N-dimethylformamide were dissolved 450 mg of 4-chloro-6-(2-fluorophenyl)pyrimidine and 227 mg of 3-butyn-1-ol, to which 130 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 12 hours. The reaction mixture was then poured into water and extracted three times with ethyl acetate. The organic layers were combined, washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 302 mg of 4-(2-fluorophenyl)-6-(3-butynyloxy)pyrimidine (the present compound (152)).

reactant | 4-chloro-6-(2-fluorophenyl)pyrimidine | 450 mg | ClC1=NC=NC(=C1)C1=C(C=CC=C1)F | C10H6ClFN2
reactant | 3-butyn-1-ol | 227 mg | C(CC#C)O | C4H6O
reactant | sodium hydride | 130 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(2-fluorophenyl)-6-(3-butynyloxy)pyrimidine | 302 mg | FC1=C(C=CC=C1)C1=NC=NC(=C1)OCCC#C | C14H11FN2O
